* Proteus-compatible SPICE Netlist
* Self-Healing Cyber-Hardened BMS — EKF 2RC Battery Model
* Import this into Proteus 9 Pro via: Design > Netlist Compiler > SPICE
* ─────────────────────────────────────────────────────────────

.TITLE Self-Healing BMS Battery Model Simulation

* ── Battery Pack Model (2RC Thevenin Equivalent) ─────────────
* Represents one 4S sub-module of the 16S Li-ion pack
* Nominal: 14.8V (4 x 3.7V), Capacity 2.5Ah

V_OCV N_OCV 0 DC 14.8 AC 0
*   V_OCV simulates Open Circuit Voltage at 80% SoC

R_SERIES N_OCV N_R1_A 0.1
*   Internal ohmic resistance = 100 mOhm for 4S string

R_1 N_R1_A N_C1_P 0.05
C_1 N_C1_P 0 5000UF IC=14.6
*   Short-time polarisation RC pair (tau = 250s)

R_2 N_C1_P N_C2_P 0.02
C_2 N_C2_P 0 1000UF IC=14.6
*   Long-time double-layer RC pair (tau = 20s)

R_TERM N_C2_P N_VOUT 0.001
*   PCB trace resistance

* ── Load: UDDS Drive Cycle Current Profile ───────────────────
I_LOAD N_VOUT 0 PWL(
+ 0      0
+ 5      5
+ 10     10
+ 15     5
+ 20     2
+ 25     8
+ 30     3
+ 35     0)

* ── EKF Observation: Shunt Current Sense ─────────────────────
R_SHUNT N_C2_P N_SHUNT_REF 0.01
*   10 mOhm shunt resistor for current measurement
*   Voltage across R_SHUNT proportional to current (I = V/R)

* ── Attack Injection Test Vector ─────────────────────────────
* Uncomment below to simulate voltage spoofing attack:
* V_ATTACK N_VOUT 0 DC 12.0
*   This injects 12.0V (fake depleted reading) at N_VOUT

* ── Analysis Commands ────────────────────────────────────────
.TRAN 0.1 30 0 0.1
.PROBE V(N_VOUT) V(N_C1_P) V(N_SHUNT_REF) I(R_SHUNT)
.MEASURE TRAN Vterm_avg AVG V(N_VOUT) FROM 5 TO 30
.MEASURE TRAN I_peak MAX I(R_SHUNT) FROM 0 TO 30
.OPTIONS RELTOL=0.001 ABSTOL=1N VNTOL=1M ITL4=100

.END
